US04908371
2.80 ml of triethylamine are added to a suspension of 2.78 g of 1,2-dimethyl-3-hydroxy-4(1H)-pyridinone in 100 ml of pyridine and 100 ml of acetonitrile, and then a hot solution of 1-chlorocarbonyl-L-proline methyl ester hydrochloride (prepared by reacting a solution of 0.99 g of L-proline methyl ester hydrochloride (dry) in 150 ml of toluene with 245 ml of a 20% solution of phosgene in toluene after stirring for 6 hours at 110° C.) is added dropwise. The reaction mixture becomes reddish in hue and a solution forms, whereupon a precipitate forms again immediately. After a reaction time of 20 hours the solid is removed by filtration and the filtrate is concentrated by evaporation under reduced pressure. The residue, which contains the desired product in the form of the hydrochloride, is dissolved in 50 ml of water. The solution is adjusted to pH 2.5 by addition of phosphoric acid and extracted with methylene chloride. The aqueous phase is subsequently saturated with sodium chloride and extracted once more with methylene chloride. The residue of the second extract is crystallised from 10 ml of isopropanol and 50 ml of ethyl acetate at 4° C., affording 1,2-dimethyl-3-[(2(S)-methoxycarbonylpyrrolidino)carbonyloxy]-4(1H)-pyridinone which melts at 198°-200° C.

reactant | 1,2-dimethyl-3-hydroxy-4(1H)-pyridinone | 2.78 g | CN1C(=C(C(C=C1)=O)O)C | C7H9NO2
reactant | 1-chlorocarbonyl-L-proline methyl ester hydrochloride | Cl.COC([C@H]1N(CCC1)C(=O)Cl)=O
reactant | L-proline methyl ester hydrochloride | 0.99 g | Cl.COC([C@H]1NCCC1)=O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
product | 1,2-dimethyl-3-[(2(S)-methoxycarbonylpyrrolidino)carbonyloxy]-4(1H)-pyridinone | CN1C(=C(C(C=C1)=O)OC(=O)N1[C@@H](CCC1)C(=O)OC)C | C14H18N2O5
